US07977340B2
4-Bromo-2-nitroaniline (14.3 g, 0.0659 mol) was added in one portion to iodine (17.6 g, 0.0692 mol) dissolved in ethanol (300 ml), followed by silver (I) sulphate (20.4 g 0.0659 mol). After stirring at ambient temperature for 18 hours the reaction was filtered and the solid obtained was washed with dichloromethane until all the orange product had dissolved. The combined filtrates were evaporated in vacuo and the resulting solid was washed with diethyl ether/40-60 Petroleum ether (1:1) and filtered to give 4-bromo-2-iodo-6-nitroaniline as an orange solid (19.8 g, 88%), which was used without further purification.

reactant | 4-Bromo-2-nitroaniline | 0.0659 mol, 14.3 g | BrC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | iodine | 0.0692 mol, 17.6 g | II | I2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | silver (I) sulphate | 0.0659 mol, 20.4 g | S(=O)(=O)([O-])[O-].[Ag+].[Ag+]
product | 4-bromo-2-iodo-6-nitroaniline | 19.8 g, 88% | BrC1=CC(=C(N)C(=C1)[N+](=O)[O-])I | C6H4BrIN2O2
